US05556977
Methyl N-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetyl]glycinate
A solution of methyl N-[4-(bromoacetyl)phenoxyacetyl]glycinate (0.85 g) in acetonitrile (10 ml) was added to a stirred solution of 1-(4-pyridyl)piperazine (0.81 g) in acetonitrile (30 ml). After stirring overnight the solvent was removed in vacuo and the residue partitioned between water/ethyl acetate. The organic phase was washed with water, then dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica, eluting with 0 to 7.5% v/v methanol/dichloromethane. Evaporation of the fractions gave the title compound, 130 mg, as a foam: NMR (d6DMSO) δ8.58 (1H, t), 8.16 (2H, d), 8.01 (2H, d), 7.08 (2H, d), 6.83 (2H, d), 5.75 (1H, s), 4.68 (2H, s), 3.92 (2H, d), 3.84 (2H, s), 3.65 (3H, s), 3.34 (4H, t+H2O), 2.65 (4H, t); m/e 427 (M+H)+ ; calculated for C22H26N4O5. 0.5CH2Cl2 : C, 57.6; H, 5.8; N, 11.9. found: C, 57.8; H, 5.7; N, 12.0%.

reactant | methyl N-[4-(bromoacetyl)phenoxyacetyl]glycinate | 0.85 g | BrCC(=O)C1=CC=C(OCC(=O)NCC(=O)OC)C=C1 | C13H14BrNO5
reactant | 1-(4-pyridyl)piperazine | 0.81 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Methyl N-[4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetyl]glycinate | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(OCC(=O)NCC(=O)OC)C=C1 | C22H26N4O5
